US09108939B2
E: 2-(4-((4-(5-Amino-1H-indol-1-yl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
2-(4-(Bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (3.07 mmol, 1.033 g), 1-(piperidin-4-yl)-1H-indol-5-amine (3.07 mmol, 0.66 g) and potassium carbonate (9.20 mmol, 1.271 g) were combined in acetonitrile (20 mL) and stirred at room temperature overnight. The reaction mixture was concentrated at reduced pressure. The resulting residue was taken up in dichloromethane and washed with water. The organic phase was dried over sodium sulfate and concentrated at reduced pressure. The solvent was removed and the resulting residue was purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 3% methanol/dichloromethane) to afford the title compound (332 mg).

reactant | 2-(4-(Bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 3.07 mmol, 1.033 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | 1-(piperidin-4-yl)-1H-indol-5-amine | 3.07 mmol, 0.66 g | N1CCC(CC1)N1C=CC2=CC(=CC=C12)N | C13H17N3
reactant | potassium carbonate | 9.20 mmol, 1.271 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2-(4-((4-(5-Amino-1H-indol-1-yl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 332 mg | NC=1C=C2C=CN(C2=CC1)C1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C23H23F6N3O
